US08753686B2
In a mixed solvent of 75 g of methanol and 25 g of ion-exchanged water were dissolved 18.40 g (68.32 mmol) of 11-methacrylamidoundecanoic acid (MAU), 1.60 g (7.59 mmol) of 2-methacryloxyethyl phosphoric acid (Phosmer-M: Uni-Chemical Co.), 0.30 g (7.59 mmol) of sodium hydroxide, and 0.31 g (1.89 mmol) of azobisisobutyronitrile (Nacalai Tesque, Inc.). The solution was deaerated by bubbling nitrogen for 60 minutes. The container was covered with a septum, and the polymerization was conducted by heating at 60° C. for 20 hours. After the completion of the polymerization reaction, a gelatinous product was obtained. This product was dried under reduced pressure, and 6.0 g of the dried material was added to 200 g of methanol. After sufficient stirring, insoluble material was removed by filtration. The obtained solution was dropwise added into a large excess of ethyl acetate, and the resulting precipitate was collected by filtration under suction. After drying under reduced pressure, 2.01 g of random MAU/2-methacryloxyethyl phosphoric acid copolymer (90/10) was obtained. The weight average molecular weight was 190000.

reactant | 11-methacrylamidoundecanoic acid | 68.32 mmol, 18.40 g | C(C(=C)C)(=O)NCCCCCCCCCCC(=O)O | C15H27NO3
reactant | 2-methacryloxyethyl phosphoric acid | 7.59 mmol, 1.60 g | C(C(=C)C)(=O)OCCOP(O)(O)=O | C6H11O6P
reactant | sodium hydroxide | 7.59 mmol, 0.30 g | [OH-].[Na+]
reactant | azobisisobutyronitrile | 1.89 mmol, 0.31 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | methanol | 75 g | CO | CH4O
solvent | water | 25 g | O | H2O
product | MAU 2-methacryloxyethyl phosphoric acid | 2.01 g | C(C(=C)C)(=O)NCCCCCCCCCCC(=O)O.C(C(=C)C)(=O)OCCOP(O)(O)=O | InChI=1S/C15H27NO3.C6H11O6P/c1-13(2)15(19)16-12-10-8-6-4-3-5-7-9-11-14(17)18;1-5(2)6(7)11-3-4-12-13(8,9)10/h1,3-12H2,2H3,(H,16,19)(H,17,18);1,3-4H2,2H3,(H2,8,9,10)
